US04171365
A mixture of 11.2 g (0.05 m) of dibenzoylmethane, 16.1 g (0.05 m) of 6-(2-chloro-4-methoxyphenoxy)hexyl bromide, 20.6 g (0.15 m) of milled potassium carbonate, 2.0 g of potassium iodide and 250 ml of 2-butanone was heated at reflux for 18 hours. The reaction mixture was filtered hot and concentrated to a brown oil. The latter was stirred with cold ether and seeded with a sample of the desired product having the m.p. 69°-70° C. The solid product thus obtained was collected to afford 9.0 g of 2-benzoyl-8-[2-chloro-4-methoxyphenoxy]-1-phenyl-1-octanone; MIC=3 microg/ml (herpes 2).

reactant | dibenzoylmethane | 11.2 g | C(C1=CC=CC=C1)(=O)CC(C1=CC=CC=C1)=O | C15H12O2
reactant | 6-(2-chloro-4-methoxyphenoxy)hexyl bromide | 16.1 g | ClC1=C(OCCCCCCBr)C=CC(=C1)OC | C13H18BrClO2
reactant | potassium carbonate | 20.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.0 g | [I-].[K+]
solvent | 2-butanone | 250 ml | CC(CC)=O | C4H8O
product | 2-benzoyl-8-[2-chloro-4-methoxyphenoxy]-1-phenyl-1-octanone | 9.0 g | C(C1=CC=CC=C1)(=O)C(C(=O)C1=CC=CC=C1)CCCCCCOC1=C(C=C(C=C1)OC)Cl | C28H29ClO4
